US06153757
To a solution of methyl 2(R/S)-(tert-butoxycarbonyl)amino-3,3-dimethyl-4-pentenoate (4.97 g, 19.3 mmol) in 50 mL of dichloromethane at 0° C. was added 16.5 mL of trifluoroacetic acid. After 2 hours, the solution was concentrated and the residue was dissolved in 100 mL of dichloromethane and washed with sat. aq. sodium bicarbonate (50 mL). The organic layer was dried over sodium sulfate and concentrated to give methyl 2(R/S)-amino-3,3-dimethyl-4-pentenoate (2.30 g), which was dissolved in 50 mL of dichloromethane and cooled to 0° C. Triethylamine (8.1 mL, 58 mmol) was added, followed by addition of 4-(4-fluorophenoxy)benzenesulfonyl chloride (6.71 g, 21.3 mmol). The reaction was allowed to warm to room temperature and stirred for 18 hours and then washed 3 N hydrochloric acid (125 mL), dried over sodium sulfate and concentrated. The residue was purified by chromatography on silica gel, eluting with 20% ethyl acetate in hexane, to yield 4.41 g (61%) of methyl 2(R/S)-[4-(4-fluorophenoxy)benzenesulfonyl]amino-3,3-dimethyl-4-pentenoate as a white solid.

reactant | methyl 2(R/S)-(tert-butoxycarbonyl)amino-3,3-dimethyl-4-pentenoate | 19.3 mmol, 4.97 g | C(C)(C)(C)OC(=O)NC(C(=O)OC)C(C=C)(C)C | C13H23NO4
reactant | trifluoroacetic acid | 16.5 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | methyl 2(R/S)-amino-3,3-dimethyl-4-pentenoate | 2.30 g | NC(C(=O)OC)C(C=C)(C)C | C8H15NO2
